US07151097B2
Preparation of Intermediate 2,2-Difluoro-N-(2-hydroxy-ethyl)-propionamide (I-3b)
2,2-Difluoro-propionic acid ethyl ester I-3a (10.1 g, 70 mmol) was added dropwise to stirred, cooled (0° C.) ethanolamine (4.4 ml, 70 mmol) and the resulting solution was allowed to stir at ambient temperature for 4 hours. Concentration of the reaction mixture in vacuo afforded the title compound (I-3b) as a solid, 11.2 g.

reactant | 2,2-Difluoro-propionic acid ethyl ester | C(C)OC(C(C)(F)F)=O | C5H8F2O2
reactant | ethanolamine | 70 mmol, 4.4 ml | C(O)CN | C2H7NO
product | 2,2-Difluoro-N-(2-hydroxy-ethyl)-propionamide | FC(C(=O)NCCO)(C)F | C5H9F2NO2
